US08242175B2
1-[4-(4-Benzoyl-piperazin-1-yl)-phenyl]-ethanone (500 mg, 1.62 mmol) was dissolved in 1,4-dioxane (3 ml) and added to a stirred solution of 4-formylcinnamic acid (286 mg, 1.62 mmol) and 1.7 M KOH (1.9 ml) in EtOH (5 ml) and water (5 ml). The resulting mixture was stirred overnight at room temperature and then heated to 40° C. for 4 h. The reaction was then quenched with 10% HCl, the resulting precipitate was filtered and washed with EtOH. The resulting green solid was dried in vacuo to give 240 mg of (E)-3-(4-{(E)-3-[4-(4-benzoyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid as its hydrochloride salt.

reactant | 1-[4-(4-Benzoyl-piperazin-1-yl)-phenyl]-ethanone | 1.62 mmol, 500 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C19H20N2O2
reactant | 4-formylcinnamic acid | 1.62 mmol, 286 mg | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | KOH | 1.7 M, 1.9 ml | [OH-].[K+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | water | 5 ml | O | H2O
product | (E)-3-(4-{(E)-3-[4-(4-benzoyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid | 240 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | C29H26N2O4
